US07179912B2
A solution of trifluoromethanesulfonic acid 3,5-dihydroxy-4-oxo-2-phenyl-4H-chromen-7-yl ester (90 mg, 0.224 mmol), morpholine (0.024 mL, 0.269 mmol), tris(dibenzylideneacetone) dipalladium(0) (10 mg, 0.011 mmol), biphenyl-2-yl-di-tert-butyl-phosphane (13 mg, 0.045 mmol), and K3PO4 (67 mg, 0.314 mmol) in THF (1.2 mL) was capped and heated to 85° C. After 9 h, the reaction mixture was allowed to cool to room temperature, then filtered through a ½″ silica gel (60 Å) plug. The plug was washed with EtOAc (40 mL) and the filtrate concentrated. The concentrate was purified via Biotage chromatography eluting with 100% CH2Cl2 to yield 7 mg (9%) of 3,5-dihydroxy-7-morpholin-4-yl-2-phenyl-chromen-4-one.

reactant | trifluoromethanesulfonic acid 3,5-dihydroxy-4-oxo-2-phenyl-4H-chromen-7-yl ester | 0.224 mmol, 90 mg | OC1=C(OC2=CC(=CC(=C2C1=O)O)OS(=O)(=O)C(F)(F)F)C1=CC=CC=C1 | C16H9F3O7S
reactant | morpholine | 0.269 mmol, 0.024 mL | N1CCOCC1 | C4H9NO
reactant | biphenyl-2-yl-di-tert-butyl-phosphane | 0.045 mmol, 13 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
reactant | K3PO4 | 0.314 mmol, 67 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.011 mmol, 10 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 3,5-dihydroxy-7-morpholin-4-yl-2-phenyl-chromen-4-one | 7 mg, 9% | OC1=C(OC2=CC(=CC(=C2C1=O)O)N1CCOCC1)C1=CC=CC=C1 | C19H17NO5
